US06774129B2
A mixture of 1,2,3,4-tetrahydro-benzothieno[3,2-c]pyridine [prepared analogous to the procedure described in J. Am. Chem. Soc., 1953, p. 697] (0.009 mol), 3-(2-chloro-ethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (0.011 mol), Na2CO3 (0.023 mol) and KI (catalytic quantity) in methylisobutyl keton (100 ml) was stirred and refluxed overnight, then cooled to room temperature and the solvent was evaporated. The residue was washed with water and extracted with CH2Cl2. The separated organic layer was dried, filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 90/10). The desired fractions were collected and the solvent was evaporated. The residue was converted into the (E)-2-butenedioic acid salt (2:1). The precipitate was filtered off and dried, yielding 2.3 g (47%) of 3-[2-(3,4-dihydro-[1]benzothieno[3,2-c]pyridin-2(1H)-yl)ethyl]4H-pyrido[1,2-a]pyrimidin-4-one (E)-2-butenedioate(2:1) (comp. 1).

reactant | 1,2,3,4-tetrahydro-benzothieno[3,2-c]pyridine | C1NCCC2=C1C1=C(S2)C=CC=C1 | C11H11NS
reactant | 3-(2-chloro-ethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.011 mol | ClCCC1=C(N=C2N(C1=O)C=CC=C2)C | C11H11ClN2O
reactant | Na2CO3 | 0.023 mol | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methylisobutyl keton | 100 ml | CC(=O)CC(C)C | C6H12O
product | 3-[2-(3,4-dihydro-[1]benzothieno[3,2-c]pyridin-2(1H)-yl)ethyl]4H-pyrido[1,2-a]pyrimidin-4-one (E)-2-butenedioate | 2.3 g, 47% | C(\C=C\C(=O)O)(=O)O.C1N(CCC2=C1C1=C(S2)C=CC=C1)CCC1=CN=C2N(C1=O)C=CC=C2 | InChI=1S/C21H19N3OS.C4H4O4/c25-21-15(13-22-20-7-3-4-10-24(20)21)8-11-23-12-9-19-17(14-23)16-5-1-2-6-18(16)26-19;5-3(6)1-2-4(7)8/h1-7,10,13H,8-9,11-12,14H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
